US07863283B2
4-(Isopropylamino)-7-{[(RS)-3-(S-methylsulphonimidoyl)benzyl]oxy}-quinazoline-6-carboxylic acid
According to GWP 6, ethyl 7-({(RS)-3-[N-(ethoxycarbonyl)-S-methylsulphonimidoyl]-benzyl}oxy)-4-(isopropylamino)quinazoline-6-carboxylate (100 mg, 0.194 mmol) is reacted at 80° C. for 2 hours with sodium ethoxide (59 mg, 0.9 mmol). The reaction mixture is concentrated to dryness. The residue is taken up in ethyl acetate and water and acidified. The organic phase is separated off and subsequently concentrated. After chromatographic purification, the desired product is obtained in 35% yield (28 mg).

reactant | ethyl 7-({(RS)-3-[N-(ethoxycarbonyl)-S-methylsulphonimidoyl]-benzyl}oxy)-4-(isopropylamino)quinazoline-6-carboxylate | 0.194 mmol, 100 mg | C(C)OC(=O)N=S(=O)(C)C=1C=C(COC2=C(C=C3C(=NC=NC3=C2)NC(C)C)C(=O)OCC)C=CC1 | C25H30N4O6S
reactant | sodium ethoxide | 0.9 mmol, 59 mg | [O-]CC.[Na+]
product | 4-(Isopropylamino)-7-{[(RS)-3-(S-methylsulphonimidoyl)benzyl]oxy}-quinazoline-6-carboxylic acid | 35% yield | C(C)(C)NC1=NC=NC2=CC(=C(C=C12)C(=O)O)OCC1=CC(=CC=C1)S(=O)(=N)C | C20H22N4O4S
